US08669266B2
(i) 4-((S)-2-Benzyloxycarbonylamino-4,4-difluoro-butyryl)-piperazine-1-carboxylic acid butyl ester
To a solution of 114 mg (S)-2-Benzyloxycarbonylamino-4,4-difluoro-butyric acid were added 0.11 ml N-ethylmorpholine, 138 mg TOTU and 78 mg 1-butoxycarbonylpiperazine. After stirring for 12 h the reaction mixture was diluted with ethyl acetate and washed with aqueous LiCl (4%), 0.1 M HCl, saturated aqueous NaHCO3 and brine. The crude product obtained was used without further purification. Yield: 150 mg

reactant | (S)-2-Benzyloxycarbonylamino-4,4-difluoro-butyric acid | 114 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC(F)F | C12H13F2NO4
reactant | N-ethylmorpholine | 0.11 ml | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 138 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | 1-butoxycarbonylpiperazine | 78 mg | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((S)-2-Benzyloxycarbonylamino-4,4-difluoro-butyryl)-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC(F)F)NC(=O)OCC1=CC=CC=C1)=O | C21H29F2N3O5
